US04259352
A solution of 3.0 g. tert-butyl ethyl 4-(1-cyclopentylethylamino)benzoylmalonate 10 ml. of trifluoroacetic acid is warmed with stirring for 3 hours. The solution is poured onto ice and neutralized with potassium hydroxide. The resulting precipitate is collected by filtration, washed with water and dried. Recrystallization from chloroform affords ethyl 4-(1-cyclopentylethylamino)-benzoylacetate.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | tert-butyl ethyl 4-(1-cyclopentylethylamino)benzoylmalonate | 10 ml | C1(CCCC1)C(C)NC1=CC=C(C(=O)C(C(=O)OC(C)(C)C)C(=O)OCC)C=C1 | C23H33NO5
product | ethyl 4-(1-cyclopentylethylamino)-benzoylacetate | C1(CCCC1)C(C)NC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C18H25NO3
